US06066739
Methyl (±)-4-[α-hydroxy-5-(1-imidazolyl)-2-methylbenzyl]-3,5-dimethylbenzoate (46 g) was suspended in dichloroethane (550 ml) and pyridine (15.8 ml), and a solution of (S)-2-(4-methylbenzenesulfonylamino)-3-phenylpropionyl chloride (53.2 g) in dichloroethane (125 ml) was added dropwise to the suspension over 10 minutes with stirring under ice-cooling. The mixture was stirred at room temperature for 4 hours, and the reaction mixture was washed successively with water, 5% citric acid, 5% potassium carbonate and water. The organic layer was separated and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give 86 g of methyl (±)-4-[5-(1-imidazolyl)-2-methyl-α-{(S)-2-(4-methylbenzenesulfonylamino)-3-phenylpropionyloxy}-benzyl]-3,5-dimethylbenzoate as a pale-yellow oil. This was crystallized from ethyl acetate (150 ml) and isopropyl ether (600 ml) and the obtained crystals were recrystallized from ethyl acetate (75 ml) and isopropyl ether (150 ml) to give 29.8 g of methyl (S)-4-[5-(1-imidazolyl)-2-methyl-α-{(S)-2-(4-methylbenzenesulfonylamino)-3-phenylpropionyloxy}benzyl]-3,5-dimethylbenzoate as white crystals, melting point 111-112° C.

reactant | Methyl (±)-4-[α-hydroxy-5-(1-imidazolyl)-2-methylbenzyl]-3,5-dimethylbenzoate | 46 g | OC(C1=C(C=CC(=C1)N1C=NC=C1)C)C1=C(C=C(C(=O)OC)C=C1C)C | C21H22N2O3
reactant | (S)-2-(4-methylbenzenesulfonylamino)-3-phenylpropionyl chloride | 53.2 g | CC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)Cl)CC1=CC=CC=C1 | C16H16ClNO3S
solvent | dichloroethane | 550 ml | ClC(C)Cl | C2H4Cl2
solvent | pyridine | 15.8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | 125 ml | ClC(C)Cl | C2H4Cl2
product | methyl (±)-4-[5-(1-imidazolyl)-2-methyl-α-{(S)-2-(4-methylbenzenesulfonylamino)-3-phenylpropionyloxy}-benzyl]-3,5-dimethylbenzoate | 86 g | N1(C=NC=C1)C=1C=CC(=C(C(OC([C@H](CC2=CC=CC=C2)NS(=O)(=O)C2=CC=C(C=C2)C)=O)C2=C(C=C(C(=O)OC)C=C2C)C)C1)C | C37H37N3O6S
